US04259233
N-(6-Aminohexyl)-7-β-galactosylcoumarin-3-carboxamide (1)
1,6-Hexanediamine (1.76 g, 15 mmoles) was dissolved in 20 milliliters (ml) of distilled water and the pH was adjusted to 9 with concentrated hydrochloric acid. 7-β-Galactosyl-coumarin-3-carboxylic acid (1.83 g, 5 mmoles) [Burd et al., Clin. Chem. 23:1402(1977)] was dissolved in the hexanediamine solution and the pH was further adjusted to 5±0.5. This solution was cooled to 4° C. in an ice bath. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.16 g, 6.15 mmoles) [Pierce Chemical Co., Rockford, Ill.] was added to the cooled solution and the pH was maintained at 5±0.5 manually. The reaction was allowed to proceed at 4° C. for two hours and then two more hours at room temperature. At the end of four hours, 80 ml water and 0.6 g (3.2 mmoles) 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide were added to the reaction solution and the pH was maintained at 5. The solution was stirred continuously overnight at room temperature. Then it was diluted to 6 liters (L) with distilled water and applied onto a column (5×40 cm) of CM-Sepharose CL in the ammonium form [Pharmacia Fine Chemicals, Piscataway, N.J⟧ The column was washed successively with 3 L distilled water, 1 L of 1 mM ammonium bicarbonate and 2 L of 2 mM ammonium bicarbonate. The chromatogram was developed with a linear gradient generated with 4 L of 2 mM and 4 L of 300 mM ammonium bicarbonate and 10 ml fractions were collected. The absorbance of the eluate was monitored at 280 nanometers (nm) and selected fractions were examined by thin layer chromatography on silica gel 60 plates using a 0.5 M triethylammonium bicarbonate, pH 7.8: ethanol (3:7) solvent. The fractions eluted between 70 and 90 mM ammonium bicarbonate showed several fluorescent spots when viewed under long wavelength UV light and one spot, Rf =0.24, gave a positive reaction with ninhydrin. These fractions were pooled and evaporated to dryness. The residue was dissolved in water and evaporated to dryness several times to remove the residual ammonium bicarbonate. The yield was less than 10%.

reactant | 1,6-Hexanediamine | 15 mmoles, 1.76 g | C(CCCCCN)N | C6H16N2
reactant | hydrochloric acid | Cl | ClH
reactant | 7-β-Galactosyl-coumarin-3-carboxylic acid | 5 mmoles, 1.83 g | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)C1=CC=C2C=C(C(OC2=C1)=O)C(=O)O | C16H16O9
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide | 6.15 mmoles, 1.16 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 3.2 mmoles, 0.6 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | ammonium | [NH4+]
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | water | 20 milliliters | O | H2O
solvent | hexanediamine | C(CCCCC)(N)N | C6H16N2
solvent | water | 80 ml | O | H2O
product | N-(6-Aminohexyl)-7-β-galactosylcoumarin-3-carboxamide | yield was less than 10% | NCCCCCCNC(=O)C=1C(OC2=CC(=CC=C2C1)[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)=O | C22H30N2O8
